US03951988
Heating a solution of 9.0 g of (naphth-1-ylidene)acetoacetic acid ethyl ester and 5.2 g of 2-carbethoxymethylideneimidazolidine in 60 ml of ethanol for 6 hours yields 5-methyl-7-(naphth-1-yl)-1,2,3,7-tetrahydroimidazolo[1,2-a]-pyridine-6,8 -dicarboxylic acid diethyl ester of melting point 169° - 170°C (ethanol).

reactant | (naphth-1-ylidene)acetoacetic acid ethyl ester | 9.0 g | C(C)OC(CC(=O)C=C1CC=CC2=CC=CC=C12)=O | C16H16O3
reactant | 2-carbethoxymethylideneimidazolidine | 5.2 g | C(=O)(OCC)C=C1NCCN1 | C7H12N2O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-methyl-7-(naphth-1-yl)-1,2,3,7-tetrahydroimidazolo[1,2-a]-pyridine-6,8 -dicarboxylic acid diethyl ester | Yield: 52% | C(C)OC(=O)C=1C(C(=C2N(C1C)CCN2)C(=O)OCC)C2=CC=CC1=CC=CC=C21 | C24H26N2O4
